US07507736B2
c) 6-Bromo-5-hydroxy-1H-indole-2-carboxylic acid ethyl ester
A solution of 8.30 g (27.8 mmol) 6-bromo-5-methoxy-1H-indole-2-carboxylic acid ethyl ester (prepared according to J. Org. Chem. 1974, 39, 3580) in 160 mL dichloromethane was cooled to −78° C. At this temperature, 55.7 mL boron tribromide (55.7 mmol; 1M solution in dichloromethane) were added. The solution was allowed to warm to room temperature and after 30 min. the solution was poured into 10% aqueous sodium bicarbonate solution; the phases were separated and the aqueous phase was extracted three times with ethyl acetate. The combined organic layers were washed with water, brine, dried over magnesium sulfate, filtered and evaporated. The residue was purified by flash chromatography on silica gel with n-hexane:ethyl acetate (2:1 v/v) as eluant to afford 5.7 g (72%) of the product as a light-yellow solid.

reactant | 6-bromo-5-methoxy-1H-indole-2-carboxylic acid ethyl ester | 27.8 mmol, 8.30 g | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)OC)Br | C12H12BrNO3
reactant | boron tribromide | 55.7 mmol, 1M, 55.7 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 160 mL | ClCCl | CH2Cl2
product | 6-Bromo-5-hydroxy-1H-indole-2-carboxylic acid ethyl ester | 5.7 g, 72% | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)O)Br | C11H10BrNO3
